US04614833
6-bromo-2-(3-phenoxybenzoyl)-pyridine
A solution of 5 g chromium trioxide in 10 ml water is added to a mixture of 20 g 6-bromo-α-(3-phenoxyphenyl)-2-pyridinemethanol (see Ex. 18) and 70 ml glacial acetic acid. After stirring for 1 hr. at room temperature, the reaction mixture is dded to ice:water and extracted with chloroform. The organic layer is washed with 2.5N NaOH, then with water, dried (Na2SO4) and solvent removed. Yield: 15.4 g of the title product, m.p. 65°-6° C. (from methanol); Br 22.87 (22.56).

reactant | 6-bromo-α-(3-phenoxyphenyl)-2-pyridinemethanol | 20 g | BrC1=CC=CC(=N1)C(O)C1=CC(=CC=C1)OC1=CC=CC=C1 | C18H14BrNO2
reactant | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
catalyst | chromium trioxide | 5 g | [O-2].[O-2].[O-2].[Cr+6]
product | 6-bromo-2-(3-phenoxybenzoyl)-pyridine | BrC1=CC=CC(=N1)C(C1=CC(=CC=C1)OC1=CC=CC=C1)=O | C18H12BrNO2
